US06548694B2
The (RS)-(3,5-diethoxy-2-fluoro-phenyl)-[4-(N-hydroxycarbamimidoyl)-phenylamino]-acetic acid ethyl ester (44 mg) described in example 2.5 was dissolved in THF (0.5 ml). IM NaOH (0.21 ml) was added and the mixture was stirred for 2 h at room temperature. The mixture was neutralized with 1 M HCl, concentrated and purified by column chromatography to give 23 mg of (RS)-(3,5-diethoxy-2-fluoro-phenyl)-[4-(N-hydroxycarbamimidoyl)-phenylamino]-acetic acid as a colorless solid. MS: 392 ([M+H]+) This compound was separated into the enantiomers by preparative HPLC on a chiral stationary phase (Chiralpak AD) using heptane/isopropanol/trifluoroacetic acid (60:40:0.2) as a mobile phase to give, after neutralisation, (R)-(3,5-diethoxy-2-fluoro-phenyl)-[4-(N-hydroxycarbamimidoyl)-phenylamino]-acetic acid and (S)-(3,5-diethoxy-2-fluoro-phenyl)-[4-(N-hydroxycarbamimidoyl)-phenylamino]-acetic acid.

reactant | (RS)-(3,5-diethoxy-2-fluoro-phenyl)-[4-(N-hydroxycarbamimidoyl)-phenylamino]-acetic acid ethyl ester | 44 mg | C(C)OC(C(NC1=CC=C(C=C1)C(NO)=N)C1=C(C(=CC(=C1)OCC)OCC)F)=O | C21H26FN3O5
reactant | NaOH | 0.21 ml | [OH-].[Na+]
reactant | HCl | 1 M | Cl | ClH
solvent | THF | 0.5 ml | C1CCOC1 | C4H8O
product | (RS)-(3,5-diethoxy-2-fluoro-phenyl)-[4-(N-hydroxycarbamimidoyl)-phenylamino]-acetic acid | 23 mg | C(C)OC=1C(=C(C=C(C1)OCC)C(C(=O)O)NC1=CC=C(C=C1)C(NO)=N)F | C19H22FN3O5
